US07960348B2
The Rink amide MBHA resin, 357 mg (0.25 mmol), was used as a starting material, and the starting material were reacted on peptide synthesizer ABI 433A (according to the Fmoc/DCC/HOBt 0.25 mmol protocol), whereby Trp(Boc), Arg(Pbf) and Leu were introduced to give the H-Leu-Arg(Pbf)-Trp(Boc)-Rink amide MBHA resin. In a separate reactor, 290.75 mg (1 mmol) of the Fmoc-NHNH2.HCl was weighed and dissolved in DMF. Under ice cooling, a suspension of 156.9 mg (0.95 mmol) of CDI in THF and 339.7 μl of DIEA were added and the mixture was stirred at room temperature for an hour. The mixture was added to the H-Leu-Arg(Pbf)-Trp(Boc)-Rink amide MBHA resin, followed by stirring at room temperature overnight. After the resin was washed, Phe, Thr(But), Asn(Trt), Hyp(But) and D-Tyr(But) were introduced in this order again on peptide synthesizer ABI 433A (according to the Fmoc/DCC/HOBt 0.25 mmol protocol) to give the H-D-Tyr(But)-Hyp(But)-Asn(Trt)-Thr(But)-Phe-AzaGly-Leu-Arg(Pbf)-Trp(Boc)-Rink amide MBHA resin. Subsequently, the resin was treated for 20 minutes in DMF with 94.4 μl(1 mmol) of Ac2O and 174.2 μl (1 mmol) of DIEA for N-terminal acetylation to give 596.6 mg of the Ac-D-Tyr(But)-Hyp(But)-Asn(Trt)-Thr(But)-Phe-AzaGly-Leu-Arg(Pbf)-Trp(Boc)-Rink amide MBHA resin. To the resin obtained, 4 mL of TFA/PhSMe/m-cresol/H2O/TIS/EDT (8015/5/5/2.5/2.5) was added, followed by stirring for 90 minutes. Diethyl ether was added to the reaction solution; the resulting precipitate was centrifuged, and the supernatant was removed. This procedure was repeated twice for washing. The residue was extracted with an aqueous acetic acid solution and the resin was removed by filtration. Then, linear density gradient elution (60 minutes) was performed at a flow rate of 15 ml/min with eluants A/B: 74/26-64/36 using: eluant A: 0.1% TFA in water and eluant B: 0.1% TFA-containing acetonitrile on preparative HPLC using YMC Pack R&D-ODS-5-B S-5, 120A column (30×250 mm). The fractions containing the product were collected and lyophilized. The obtained white powders, 146.3 mg, were dissolved in 100 mL of water and 530 μL of ion exchange resin BioRAD AG1×8 AcO− was added to the solution, followed by stirring for an hour. After the resin was removed by cotton plug filtration through silica wool, the same amount of the resin was again added and the mixture was stirred for an hour. The solution was filtered through a membrane filter to remove the resin and lyophilized to give 127.3 mg of white powders as the acetate.

reactant | Trp(Boc) | N[C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)O | C16H20N2O4
reactant | Arg(Pbf) | N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)O | C19H30N4O5S
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | H-Leu-Arg(Pbf)-Trp(Boc) | N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=C(C)C(C)=C2OC(C)(C)CC2=C1C)=N)C(=O)N[C@@H](CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)O | C41H59N7O9S
